US09382254B2
Step 5-(4,4-difluoropiperidin-1-ylsulfonyl)-2-(2-fluorobenzamido)thiophene-3-carboxamide (Compound 66)
A solution of 2-Amino-5-(4,4-difluoro-piperidine-1-sulfonyl)-thiophene-3-carboxylic acid amide (53 mg, 0.18 mmol), TEA (125 μL, 0.90 mmol), DMAP (7 mg, 0.054 mmol), 2-Chloro-1-methylpyridinium iodide (60 mg, 0.23 mmol) and 2-fluorobenzoic acid (33 mg, 0.23 mmol) in DCM is stirred at 80° C. overnight. The mixture is then diluted with DCM and washed with aqueous NaHCO3. The organic phase is isolated evaporated, and the residue is purified by preparative chromatography to yield the desired product.

reactant | 2-Amino-5-(4,4-difluoro-piperidine-1-sulfonyl)-thiophene-3-carboxylic acid amide | 0.18 mmol, 53 mg | NC=1SC(=CC1C(=O)N)S(=O)(=O)N1CCC(CC1)(F)F | C10H13F2N3O3S2
reactant | 2-Chloro-1-methylpyridinium iodide | 0.23 mmol, 60 mg | [I-].ClC1=[N+](C=CC=C1)C
reactant | 2-fluorobenzoic acid | 0.23 mmol, 33 mg | FC1=C(C(=O)O)C=CC=C1 | C7H5FO2
catalyst | DMAP | 0.054 mmol, 7 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 5-(4,4-difluoropiperidin-1-ylsulfonyl)-2-(2-fluorobenzamido)thiophene-3-carboxamide | FC1(CCN(CC1)S(=O)(=O)C1=CC(=C(S1)NC(C1=C(C=CC=C1)F)=O)C(=O)N)F | C17H16F3N3O4S2
